US07420001B2
To 75 ml of DMF cooled to −20° C., oxalyl chloride (6.7 ml, 76 mmol) was carefully added dropwise. A white suspension was formed and the fumes generated were removed by blowing N2 through the flask. A solution of 4′-[(benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonic acid (15 g, 38 mmol) in 100 ml DMF was added slowly and the temperature was maintained <0° C. After the addition was complete, the reaction mixture was warmed to room temperature and was stirred at room temperature for 3 h. The reaction mixture was poured into 4L ice/water, and the suspension was filtered. The solid was collected and dried under vacuum to provide 7.3 g of 4′-[(benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonyl chloride, obtained as off-white solid.

reactant | oxalyl chloride | 76 mmol, 6.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4′-[(benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonic acid | 38 mmol, 15 g | O1C(=CC2=C1C=CC=C2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)O | C21H15NO5S
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 4′-[(benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonyl chloride | 7.3 g | O1C(=CC2=C1C=CC=C2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)Cl | C21H14ClNO4S
